US08426437B2
4-Oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate was prepared according to method of esterification C from 194 mg (0.85 mmol) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid, 1.29 mL (12.75 mmol) of triethylamine and 698 μL (1.1 mmol) of di-n-propylsulfate to give, after precipitation in water, 200 mg (87%) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate in the form of a beige solid.

reactant | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.85 mmol, 194 mg | O=C1NC=2C=CC=CC2C2=C1NC=C2C(=O)O | C12H8N2O3
reactant | triethylamine | 12.75 mmol, 1.29 mL | C(C)N(CC)CC | C6H15N
reactant | di-n-propylsulfate | 1.1 mmol, 698 μL | C(CC)OS(=O)(=O)OCCC | C6H14O4S
product | 4-Oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | O=C1NC=2C=CC=CC2C2=C1NC=C2.C(CC)C(=O)[O-] | InChI=1S/C11H8N2O.C4H8O2/c14-11-10-8(5-6-12-10)7-3-1-2-4-9(7)13-11;1-2-3-4(5)6/h1-6,12H,(H,13,14);2-3H2,1H3,(H,5,6)/p-1
